US04575507
C. 6-chlorospiro[chroman-4,4'-imidazolidine]2,2',5'-trione
A solution of 4.0 g. (0.0122 mole) of 4-(2'-methoxy-5'-chlorophenyl)-4-(carboethoxymethyl)imidazolidine 2,5-dione in 40 ml. of 58% hydriodic acid was heated to 115° C. for 4 hours. The reaction mixture was cooled, poured into water and extracted with ethyl acetate. The combined extracts were washed with a sodium bisulfite solution, water and brine, dried over magnesium sulfate and concentrated in vacuo to dryness. The residue was chromatographed using ethyl acetatehexane as the eluent (1:1; V:V) to give 106 mg. of product as the less polar material, m.p. 289°-290° C. (dec.).

reactant | 4-(2'-methoxy-5'-chlorophenyl)-4-(carboethoxymethyl)imidazolidine 2,5-dione | 0.0122 mole | COC1=C(C=C(C=C1)Cl)C1(NC(NC1=O)=O)CC(=O)OCC | C14H15ClN2O5
reactant | hydriodic acid | I | HI
solvent | water | O | H2O
product | 6-chlorospiro[chroman-4,4'-imidazolidine]2,2',5'-trione | ClC=1C=C2C(=CC1)OC(CC21NC(NC1=O)=O)=O | C11H7ClN2O4
